US07488353B2
Step 1: Preparation of nicotine aldehyde ((2E)-3-methyl-1,3-benzothiazol-2(3H)-ylidene) hydrazone
1.50 g (6.42 mmol) of 2,3-dihydro-3-methyl-2-benzothiazolone hydrazone hydrochloride and 0.69 g (6.42 mmol) of 3-pyridinecarboxaldehyde in 10% acetic acid were stirred at room temperature for 30 minutes. The mixture was then made slightly alkaline with 2N sodium hydroxide solution and the precipitate was suction-filtered off, washed with water and dried under vacuum.

reactant | 2,3-dihydro-3-methyl-2-benzothiazolone hydrazone hydrochloride | 6.42 mmol, 1.50 g | Cl.CN1C(SC2=C1C=CC=C2)=NN
reactant | 3-pyridinecarboxaldehyde | 6.42 mmol, 0.69 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | nicotine aldehyde ((2E)-3-methyl-1,3-benzothiazol-2(3H)-ylidene) hydrazone | CN1/C(/SC2=C1C=CC=C2)=N\N=CC2=CN=CC=C2 | C14H12N4S
